US06613942B1
lodomethane (2.5 mL, 40 mmoles) was added to a mixture of 5-iodovanillin (10 g, 36 mmoles), potassium carbonate (25 g, 180 mmoles) in DMF (100 ml) and the resulting mixture was stirred at room temperature for 16 hours. The mixture was poured into water (0.5 L) and extracted with ethyl acetate (2×200 mL). The combined organic phases were washed with water (200 mL), dried over MgSO4 and evaporated in vacuo to afford 9.78 g (93%) of 3,4-dimethoxy-5-iodobenzaldehyde, m.p. 58-63° C.

reactant | 5-iodovanillin | 36 mmoles, 10 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 180 mmoles, 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 L | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3,4-dimethoxy-5-iodobenzaldehyde | 9.78 g, 93% | COC=1C=C(C=O)C=C(C1OC)I | C9H9IO3
